US07834012B2
Methyl trans-5-amino-4-(2,4,5-trifluorophenyl)cyclohex-1-enecarboxylate
A mixture of trans-ethyl 5-nitro-4-(2,4,5-trifluorophenyl)cyclohex-1-enecarboxylate (500 g, 1.59 mol) and Fe powder (90 g, 1.6 mol) in ethanol (3.2 L) and 2 M HCl (3.2 L) was heated to 45° C., whereupon the internal temperature of the reaction increased to 65° C. over the course of 0.5 hours. After the internal temperature had fallen to 45° C., a second portion of Fe powder (135 g, 2.4 mol) was added, resulting in an increase in internal temperature to 73° C. After thirty minutes, a third aliquot of Fe powder (90 g, 1.6 mol) was added, and the reaction was allowed to stir for one hour, after which the heating bath was removed. Ammonium hydroxide (˜100 mL) was then added to the ambient mixture until the pH was 8. The mixture was filtered though celite, eluting with boiling EtOH. The ethanol was removed under reduced pressure, and the aqueous was acidified with concentrated HCl to pH ˜3. The aqueous layer was then washed with diethyl ether (3×1 L), and the combined dark organic layers were discarded. The aqueous layer was basified with ammonium hydroxide, and the resulting emulsion was filtered through celite (eluting with hot EtOH). The filtrate was concentrated under reduced pressure, and the residue was partitioned between ethyl acetate and saturated aqueous NaHCO3. The layers were separated, and the organic was washed with saturated aqueous NaHCO3, dried over Na2SO4, filtered, and concentrated under reduced pressure to give the title compound as an oil (344 g, 75%).

reactant | trans-ethyl 5-nitro-4-(2,4,5-trifluorophenyl)cyclohex-1-enecarboxylate | 1.59 mol, 500 g | [N+](=O)([O-])[C@H]1[C@@H](CC=C(C1)C(=O)OCC)C1=C(C=C(C(=C1)F)F)F | C15H14F3NO4
solvent | ethanol | 3.2 L | C(C)O | C2H6O
solvent | HCl | 2 M, 3.2 L | Cl | ClH
catalyst | Fe | 1.6 mol, 90 g | [Fe] | Fe
catalyst | Fe | 2.4 mol, 135 g | [Fe] | Fe
catalyst | Fe | 1.6 mol, 90 g | [Fe] | Fe
product | Methyl trans-5-amino-4-(2,4,5-trifluorophenyl)cyclohex-1-enecarboxylate | 344 g, 75% | N[C@H]1[C@@H](CC=C(C1)C(=O)OC)C1=C(C=C(C(=C1)F)F)F | C14H14F3NO2
